US08735384B2
A vial was charged with 2-bromo-1-iodo-3-methylbenzene (677 mg, 2.28 mmol), neopentyl alcohol (2.21 g, 25.08 mmol), copper(I) iodide (43.4 mg, 0.228 mmol), 1,10-phenanthroline (82 mg, 0.456 mmol) and cesium carbonate (1.04 mg, 3.19 mmol). The vial was sealed under air atmosphere and heated to 110° C. for 24 h. The reaction mixture was cooled to rt and diethyl ether was added. The suspension was filtered through a pad of silica gel. The solvent was removed under reduced pressure and the remaining residue was purified by flash chromatography (100% hexanes). 2-Bromo-1-methyl-3-(neopentyloxy)benzene was obtained as a colorless oil.

reactant | 2-bromo-1-iodo-3-methylbenzene | 2.28 mmol, 677 mg | BrC1=C(C=CC=C1C)I | C7H6BrI
reactant | neopentyl alcohol | 25.08 mmol, 2.21 g | C(C(C)(C)C)O | C5H12O
reactant | 1,10-phenanthroline | 0.456 mmol, 82 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 3.19 mmol, 1.04 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) iodide | 0.228 mmol, 43.4 mg | [Cu]I
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Bromo-1-methyl-3-(neopentyloxy)benzene | BrC1=C(C=CC=C1OCC(C)(C)C)C | C12H17BrO
